US04952600
(S)-3-Methoxy-1-[4-(1-piperidinyl)-2-butynyl]-2-pyrrolidinone
A mixture of 250 mg of (S)-3-methoxy-1-(2-propynyl)-2-pyrrolidinone, 3.0 ml of dioxane, 0.3 ml of acetic acid, 0.15 g of piperidine, 75 mg of paraformaldehyde and 10 mg of cuprous chloride was heated at reflux for 1 hour then cooled to 0° C. and basified with 1N sodium hydroxide. This mixture was extracted with dichloromethane. The dichloromethane solution was washed with brine, dried and concentrated, giving the desired product, [α]D26 =-43° (dichloromethane).

reactant | (S)-3-methoxy-1-(2-propynyl)-2-pyrrolidinone | 250 mg | CO[C@@H]1C(N(CC1)CC#C)=O | C8H11NO2
reactant | piperidine | 0.15 g | N1CCCCC1 | C5H11N
reactant | paraformaldehyde | 75 mg | C=O | CH2O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetic acid | 0.3 ml | C(C)(=O)O | C2H4O2
solvent | dioxane | 3.0 ml | O1CCOCC1 | C4H8O2
product | (S)-3-Methoxy-1-[4-(1-piperidinyl)-2-butynyl]-2-pyrrolidinone | CO[C@@H]1C(N(CC1)CC#CCN1CCCCC1)=O | C14H22N2O2
